US07812043B2
1-Cyclopropylmethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid thiazol-2-ylamide
Azaindole starting material=1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester; R5X=cyclopropyl-methylbromide; NH2A=2-aminothiazole

reactant | Azaindole | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | 1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester | COC(=O)C1=CNC2=NC=CC=C21 | C9H8N2O2
reactant | cyclopropyl-methylbromide | C1(CC1)CBr | C4H7Br
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
product | 1-Cyclopropylmethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=NC=CC=C21)CC2CC2 | C15H14N4OS
